US08304539B2
4-(cyclopropyl(methyl)carbamoyl)phenylboronic acid
N,N-Diisopropylethylamine (1.693 mL, 9.69 mmol) was added to a suspension of 4-boronobenzoic acid (321.7 mg, 1.939 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (806.4 mg, 2.121 mmol) in CH3CN (20 mL). After 50 min at room temperature, N-methylcyclopropanamine oxalic acid salt (315.8 mg, 1.960 mmol) was added. After 1.25 h at room temperature, the mixture was purified by reverse phase HPLC (Sunfire S10 30×250 mm column, 30-50% solvent B gradient) to give the expected product (303.6 mg, 72% yield). MS (ES+) m/z: 220 (M+H); LC retention time: 2.40 min (analytical HPLC Method A).

reactant | N,N-Diisopropylethylamine | 9.69 mmol, 1.693 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-boronobenzoic acid | 1.939 mmol, 321.7 mg | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 2.121 mmol, 806.4 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-methylcyclopropanamine oxalic acid salt | 1.960 mmol, 315.8 mg | C(C(=O)O)(=O)O.CNC1CC1
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 4-(cyclopropyl(methyl)carbamoyl)phenylboronic acid | 303.6 mg, 72% yield | C1(CC1)N(C(=O)C1=CC=C(C=C1)B(O)O)C | C11H14BNO3
